data/mechanisms/records/IMS4-EQ4.21.json
{"mechanism_id": "IMS4-EQ4.21", "species": [{"species_id": "methoxymethyl_cation", "mapped_smiles": "[CH3:1][O+:2]=[CH2:3]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_cation", "mapped_smiles": "[CH3+:1]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "formaldehyde", "mapped_smiles": "[CH2:3]=[O:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methoxymethyl_cation"]}, {"state_id": "state_products", "species_ids": ["methyl_cation", "formaldehyde"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 64, "equation": "4.21", "figure": null, "panel": null, "section": "4.7"}, "confidence": 0.85, "curator_note": "adduct corrected to null: the precursor is an EVEN-ELECTRON cation (charge +1, radical_electrons 0), NOT the [M]+. radical molecular ion. (70 eV EI is retained as the book's standing condition under which such EE+ ions are formed, but the page prints no per-scheme ionization conditions.) Eq 4.21, EE+ (even-electron closed-shell cation) inductive cleavage R-Y+=CH2 -> R+ + Y=CH2. Page draws 1 double-barbed arc pulling the R-Y bonding pair onto the Y+ centre (heterolysis); the single encoded 2-electron move reproduces it. Instantiated as the methoxymethyl (oxocarbenium) cation CH3-O+=CH2 (Y=O, Y=CH2 -> formaldehyde)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 45.034, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_R_cation", "species_id": "methyl_cation", "step_id": "step_inductive_cleavage", "observed_mz": 15.0235, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T07:02:57.650611Z", "modified_at": "2026-07-24T07:02:57.650612Z"}}
